US04264605
2-NITRO-5-(4-CHLOROPHENYLTHIO)PYRIDINE
2-Nitro-5-chloropyridine (9.5 grams), 4-chlorothiophenol (8.7 grams), and lithium hydroxide (4 grams) were mixed in 100 ml. of DMF and the reaction mixture was stirred overnight (about 18 hours) at room temperature. The reaction mixture was then poured into water and the product separated by filtration and crystallized from ethanol-hexanes, yield, 10.0 grams, m.p., 96°-98° C.

reactant | 2-Nitro-5-chloropyridine | 9.5 grams | [N+](=O)([O-])C1=NC=C(C=C1)Cl | C5H3ClN2O2
reactant | 4-chlorothiophenol | 8.7 grams | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | lithium hydroxide | 4 grams | [OH-].[Li+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-NITRO-5-(4-CHLOROPHENYLTHIO)PYRIDINE | [N+](=O)([O-])C1=NC=C(C=C1)SC1=CC=C(C=C1)Cl | C11H7ClN2O2S
